US08455176B2
Preparation of Bis(4-hydroxyphenyl)Phenylsulfonium Nonaflate (BHPPSNF)
Bis(4-hydroxyphenyl)phenylsulfonium triflate (2.5 g, 0.00739 moles; Dainippon Pharmaceuticals) was dissolved in 20 mL of water in a suitable container to which was added potassium nonaflate (3.28 g, 0.00739 mole). To this mixture was added 120 mL of water, which formed a cloudy solution. This solution was stirred overnight at room temperature in a stoppered flask. The formed oil was separated from the aqueous layer by decanting this layer away. The residual oil was washed with 2 mL of distilled water. This residue was dissolved in 4 mL acetone and another 2.6 g of potassium nonaflate and 100 mL of water. This mixture was then extracted with 100 mL of methylene chloride after stirring overnight. The methylene chloride layer was washed with water several times and stripped of solvents. Dissolving in a minimum of methylene chloride the residue was precipitated with pentane and then dried under high vacuum to give 2.68 g of white solid (61% yield) which was pure by 1H and 19F NMR.

reactant | Bis(4-hydroxyphenyl)phenylsulfonium triflate | 0.00739 moles, 2.5 g | [O-]S(=O)(=O)C(F)(F)F.OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=C(C=C1)O
reactant | potassium nonaflate | 0.00739 mole, 3.28 g | S(=O)(=O)([O-])C(F)(F)C(F)(F)C(F)(F)C(F)(F)F.[K+]
solvent | water | 20 mL | O | H2O
solvent | water | 120 mL | O | H2O
product | Bis(4-hydroxyphenyl)Phenylsulfonium Nonaflate | 2.68 g, 61% yield | S(=O)(=O)([O-])C(F)(F)C(F)(F)C(F)(F)C(F)(F)F.OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=C(C=C1)O | InChI=1S/C18H14O2S.C4HF9O3S/c19-14-6-10-17(11-7-14)21(16-4-2-1-3-5-16)18-12-8-15(20)9-13-18;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h1-13H,(H-,19,20);(H,14,15,16)
